US07115615B2
6,7-di-(2-methoxyethoxy)-4-(2,3-methylenedioxyanilino)quinazoline monohydrochloride salt
Using an analogous procedure to that described in Example 1, 4-chloro-6,7-di-(2-methoxyethoxy)quinazoline (U.S. Pat. No. 5,747,498; 0.1 g) was reacted with 2,3-methylenedioxyaniline (0.048 g) to give the title compound (0.121 g); NMR Spectrum: (DMSOd6 and CF3CO2D) 3.5 (s, 6H), 3.8 (m, 4H), 4.35 (m, 4H), 6.05 (s, 2H), 6.95 (m, 3H), 7.4 (s, 1H), 8.2 (s, 1H), 8.85 (s, 1H); Mass Spectrum: M+H+ 414.

reactant | 4-chloro-6,7-di-(2-methoxyethoxy)quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OCCOC)OCCOC | C14H17ClN2O4
reactant | 2,3-methylenedioxyaniline | 0.048 g | C1OC2=C(N)C=CC=C2O1 | C7H7NO2
product | 6,7-di-(2-methoxyethoxy)-4-(2,3-methylenedioxyanilino)quinazoline monohydrochloride salt | 0.121 g | Cl.COCCOC=1C=C2C(=NC=NC2=CC1OCCOC)NC1=C2C(=CC=C1)OCO2 | InChI=1S/C21H23N3O6.ClH/c1-25-6-8-27-18-10-14-16(11-19(18)28-9-7-26-2)22-12-23-21(14)24-15-4-3-5-17-20(15)30-13-29-17;/h3-5,10-12H,6-9,13H2,1-2H3,(H,22,23,24);1H
